data/oMe_Silver.jsonl
{"reaction_id": "NR-034_1-C(C)(C)C_2-c1ccc(Cl)cc1_3-S(=O)(=O)c1ccccc1_4-CC","name": "Burgess Dehydration","level": "easy","reactants_smiles": ["C(C(C)(C)C)(c1ccc(Cl)cc1)(O)C(S(=O)(=O)c1ccccc1)(CC)","COC(=O)[N-]S(=O)(=O)[N+](CC)(CC)CC"],"products_smiles": ["C(C(C)(C)C)(c1ccc(Cl)cc1)=C(S(=O)(=O)c1ccccc1)(CC)"],"conditions": "Burgess Reagent (the second reactant)","mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "COC(=O)[N-]S(=O)(=O)[OH+](C(C(C)(C)C)(c1ccc(Cl)cc1)C(S(=O)(=O)c1ccccc1)(CC))","rationale": "The electrophilic sulfur in the Burgess reagent is activated by electron-withdrawing sulfonyl and carbamate groups, allowing nucleophilic attack by the alcohol oxygen to form a sulfamate ester intermediate."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "COC(=O)[N-]S(=O)(=O)OC(C(C)(C)C)(c1ccc(Cl)cc1)C(S(=O)(=O)c1ccccc1)(CC)","rationale": "Proton transfer from the oxonium intermediate to the carbamate nitrogen neutralizes charge, stabilizing the intermediate and preparing the oxygen for elimination."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(C(C)(C)C)(c1ccc(Cl)cc1)=C(S(=O)(=O)c1ccccc1)(CC)","rationale": "The sulfamate group is an excellent leaving group due to resonance stabilization and electron-withdrawing substituents, enabling β-elimination to form the alkene under mild conditions."}],"description": "The Burgess reagent, a mild dehydrating agent, reacts with the alcohol to form a sulfamate ester intermediate. Under the reaction conditions, intramolecular elimination occurs, driven by the good leaving group ability of the sulfamate, yielding the alkene product under mild, non-acidic conditions."}
{"reaction_id": "NR-120_1-c1ccc(OC)cc1_2-CC_3-c1ccc(Cl)cc1","name": "Julia-Kociensky Olefination","level": "medium","reactants_smiles": ["C(c1ccc(OC)cc1)(CC)S(=O)(=O)c1sc2ccccc2n1","C(c1ccc(Cl)cc1)=O"],"products_smiles": ["C(c1ccc(Cl)cc1)=C(c1ccc(OC)cc1)CC"],"conditions": "Base","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[C-](c1ccc(OC)cc1)(CC)S(=O)(=O)c1sc2ccccc2n1","rationale": "The strong base deprotonates the α-position to the sulfone, as the negative charge is stabilized by resonance with the electron-withdrawing sulfone group."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(c1ccc(Cl)cc1)([O-])C(c1ccc(OC)cc1)(CC)S(=O)(=O)c1sc2ccccc2n1","rationale": "The nucleophilic carbanion attacks the electrophilic carbonyl carbon, favored by polarization of the C=O bond and minimal steric hindrance from c1ccc(Cl)cc1."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1=CC=C2C(=C1)[N-]C3(S2)[S](=O)(c(C(O3)(c1ccc(Cl)cc1))(c1ccc(OC)cc1)CC)=O","rationale": "Intramolecular attack by the alkoxide on the heteroaryl ring occurs due to proximity and the electrophilicity of the activated heteroaryl sulfur, forming a cyclic intermediate."},{"step": 4,"type": "cleavage","subtype": "heterolytic_cleavage","intermediate_smiles": "c1ccc2c(c1)n=c(s2)OC(c1ccc(Cl)cc1)C(c1ccc(OC)cc1)(CC)[S](=O)[O-]","rationale": "Heterolytic cleavage of the S–C bond is driven by the stability of the leaving heteroaryl sulfinate anion and relief of ring strain."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(c1ccc(Cl)cc1)=C(c1ccc(OC)cc1)CC","rationale": "Base-induced elimination occurs as the β-alkoxy group departs with the sulfinate, forming the thermodynamically favored alkene."}],"description": "Under basic conditions, the sulfone-stabilized carbanion adds to the carbonyl, forming a β-alkoxysulfone intermediate. Subsequent intramolecular rearrangement and fragmentation release the heteroaryl sulfone, driving elimination to yield the alkene via the Julia–Kocienski olefination pathway."}
